data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5444,"C=CC[Si](C)(C)C.CC[O+:1]([Si](C)(C)C)[CH:2]1CC2OC(=O)OC2C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)[O:3]1.O=S(=O)([O-])C(F)(F)F|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9225,"CCSC1CCC(=O)[C-:1]1Br.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1352,"CN=C=[N:1]C.O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4026,"C[CH-:1]C#N.[Br:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1877,"C[C:1]1(C)CCCC2=CC=CC=C2[C:2]1=[N:3][OH2+:4].O=P([O-])(O)OP(=O)(O)O|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7229,"C[C:1]1=[CH:2]OC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,3425,"COC1C=C[C:1]23C(C1)N1CC2[C:2]32C=C3OCOC3=C[C+:3]2C1.CS(=O)(=O)[O-].[OH-]|((1, 2), 3)"
train,pmechdb_split_0,0,4348,"CON1C(=O)C2(CC(C(=[OH+])O[C:1](C(=O)Cl)([O-:2])[Cl:3])C3COC2C(=O)C3)C2=C1C=CC=C2|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1592,"CC(C)C(Cl)C[CH:1]([H:2])[C+:3](C)C.CC[OH:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7011,"C=CCC(C=C)CC(C(C)C)[O-:1].C[N+]1(C)CC[N+](C)(C)[Li-:2]1|(1, 2)"
train,pmechdb_split_0,0,7536,"CC(=O)[O:1][C:2](C)(OCCC(C)OS(=O)(=O)C1=CC=C(C)C=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6976,"CC[C:1]1(C)C[OH+:2]1.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2118,"BrC1=C(CCC2OCCC[O:1]2)N=CN=C1.O.O=C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6007,"C=CCCCCC(CC1C(=O)C(OC(=O)C2=CC=CC=C2)=C(CCC=C)C1C(C)C)(C1=[N+](CC2=CC=CC=C2)C(C)=C(CCO)S1)[O:1][H:2].CC[N:3](CC)CC.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3308,"C#CCCC12CC([Si](C)(C)C)[C:1](=[O:2])[CH:3]([H:4])C1(O)CCC2C.C[O-:5].[OH][K]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10008,"C[C:1](CCC=O)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5463,"CC(=C[CH2+:1])CC[CH:2]=[C:3](C)C.O=P1([O-])[O][Mg][O]P(=O)([O-])O1|((3, 2), 1)"
train,pmechdb_split_0,0,1382,"CC(C)CCCCC(O)C(OC1=CC=CC=C1)C(=O)O.CCCCCC1=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1.CCOC(=O)[N:2]=[N:3]C(=O)OCC|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,62,"CC(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])(C(=O)C1CCCC2=C(C=CC=C2)C1=O)C1=CC=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7492,"CCSC(=O)C(=CC1=C([B:1]2OC(C)(C)C(C)(C)O2)C=C(O)C(OC)=C1)C(=O)SCC.O.O[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9184,"CCC(C)(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1726,"C[CH:1]=[CH:2][C:3]([O][Na])=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3435,"CCOC(C)(C)[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4576,"C[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1288,"CCCCCC1CC[C:1](=[O+:2][Al-:3]([CH2]C(C)C)([CH2]C(C)C)[H:4])O1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9608,"O[P+:1](O)(O)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2307,"CCO.CCOC(=O)C(C(C)=O)C(C1=C(CCC2=CC(Br)=CC=C2)ON=C1C)[C:1](C(=O)OCC)([H:2])[C:3](C)=[NH2+:4].O.[NH3:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8483,"CCOCC.C[C:1](C1=CC(C#N)=CC=C1)=[O+:2]CC[OH:3].OCCO.O[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4240,"CC(C)(C)[O:1][H:2].CC1(C)OCC2OCC([O-:3])C(O)C2O1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5238,"CC[NH2:1].C[C:2](OC(=O)CCC=O)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5624,"C[CH+:1]C.O=S(=O)(O)C1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,7589,"O[C:1]1([Cl:2])C=CC=C[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5448,"C[C:1]1([H:2])CCC[C+:3]1C.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4221,"CS(=O)(=O)O[Si-](C)(C)(C)[O+:1]=[C:2](C)[O:3][H:4].C[OH:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1596,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])C=CC=C[C+:4]1CC=CCO|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,1953,"C=C(C)[O][Li:1].CC(C)=[O:2]|(2, 1)"
train,pmechdb_split_0,0,8279,"CC[O+:1](C(O)(CCC(=O)NC)OC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7525,"CC(=O)OC1(C(C)=O)CCC2C3CC[C+:1]4C(C)(CCC(=O)[CH:2]4[H:3])C3CCC21C.CC(C)[O-:4].CC(C)[O][Al]([O]C(C)C)[O]C1CCCCC1|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2080,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2C3C(CC(C)C)CC2[CH:3]=[CH:4]3)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9346,"C[CH:1]([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3019,"CCOC(=O)C(C)[O+]=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCOC(=O)N[N-:1]C(=O)OCC.O=C(C1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8502,"C=C=C(OC)C(C(C)C1=CC=CC=C1)[O-:1].[H:2][OH:3].[Li+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9513,"C[C:1](C)([C:2](C)([CH3:3])[OH:4])[OH2+:5].O=S(=O)([O-])O|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,1284,"CC(=O)[O:1][H:2].O=S(CC1=NC=CC=C1)C1=[N:3]C2=C(C=CC=C2)N1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2123,"C[Si](C)(C)[CH2:1][Li:2].[CH2:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
